US07723367B2
N-{2-[2-(azidomethyl)phenoxy]ethyl}-N,N-diethylamine
[2-(2-diethylamino-ethoxy)-phenyl]methanol (Cossey, H. D. et al.; J. Chem. Soc. 1965; 954-973), thionyl chloride and sodium azide were processed according to the method of Example 115A to provide the product. MS (ESI+) m/z 249 (M+H)+.

reactant | [2-(2-diethylamino-ethoxy)-phenyl]methanol | C(C)N(CCOC1=C(C=CC=C1)CO)CC | C13H21NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | N-{2-[2-(azidomethyl)phenoxy]ethyl}-N,N-diethylamine | N(=[N+]=[N-])CC1=C(OCCN(CC)CC)C=CC=C1 | C13H20N4O
